US06930104B2
4-(2,3-Dihydro-1H-indol-1-yl)-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinoline
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (400 mg, 1.22 mmol) prepared in Reference Example 1 and indoline (436 mg, 3.66 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (267 mg, yield: 51%) as a white crystal. (cis:trans=1:1.8)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 1.22 mmol, 400 mg | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | indoline | 3.66 mmol, 436 mg | N1CCC2=CC=CC=C12 | C8H9N
product | 4-(2,3-Dihydro-1H-indol-1-yl)-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydroquinoline | 267 mg, yield: 51% | N1(CCC2=CC=CC=C12)C1CC(N(C2=CC=CC=C12)C(C1=CC(=C(C=C1)OC)OC)=O)C | C27H28N2O3
